US07759373B2
In methanol (10 ml) was dissolved a crude product of 2-(5-chlorothiophen-2-yl)-5-chloromethyl-4-(3-pyridyl)-imidazole dihydrochloride (260 mg) and the mixture was refluxed for 2 hours. After cooling, a saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the mixture was extracted with a mixed solution of ethyl acetate-tetrahydrofuran. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and the solvent was removed under reduced pressure. The resulting residue was purified by silica gel column chromatography (solvent: chloroform:methanol=40:1), and then, treated with hydrogen chloride-dioxane solution to obtain 2-(5-chlorothiophen-2-yl)-5-methoxymethyl-4-(3-pyridyl) imidazole dihydrochloride (63 mg) as pale yellowish powder.

reactant | 2-(5-chlorothiophen-2-yl)-5-chloromethyl-4-(3-pyridyl)-imidazole dihydrochloride | 260 mg | Cl.Cl.ClC1=CC=C(S1)C=1NC(=C(N1)C=1C=NC=CC1)CCl
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-(5-chlorothiophen-2-yl)-5-methoxymethyl-4-(3-pyridyl) imidazole dihydrochloride | 63 mg | Cl.Cl.ClC1=CC=C(S1)C=1NC(=C(N1)C=1C=NC=CC1)COC | InChI=1S/C14H12ClN3OS.2ClH/c1-19-8-10-13(9-3-2-6-16-7-9)18-14(17-10)11-4-5-12(15)20-11;;/h2-7H,8H2,1H3,(H,17,18);2*1H
